US08039503B2
E44.1. Synthesis of spiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione (Compound 261)
The crude 1-(mercaptomethyl)cyclohexanol was then reacted with naphthalene-1,2-dione as outlined in procedure F [both step (i) and (ii)] to afford crude spiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione. The crude spiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione was purified by flash column chromatography (SiO2, 100% dichloromethane) to afford the product (0.183 g) as a purple solid. M.p.=194-195° C., 400 MHz 1H NMR CDCl3 δ 8.05-8.0 (m, 1H), 7.8-7.72 (m, 1H), 7.68-7.6 (m, 1H), 7.5-7.4 (m, 1H), 2.91 (s, 2H), 2.15-2.0 (m, 2H), 1.8-1.53 (m, 7H), 1.5-1.35 (m, 1H); LCMS=301 [M+H].

reactant | 1-(mercaptomethyl)cyclohexanol | SCC1(CCCCC1)O | C7H14OS
reactant | naphthalene-1,2-dione | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
product | spiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione | 0.183 g | O1C2=C(SCC13CCCCC3)C(C(C3=CC=CC=C32)=O)=O | C17H16O3S
